US07732614B2
Synthesis of (2S)-2-[(3,5-dichloroisonicotinoyl)amino]-3-[2-(2,6-dichlorophenyl)-6-quinolinyl]propanoic acid. (2)
Methyl-(2S)-2-[(3,5-dichloroisonicotinoyl)amino]-3-[2-(2,6-dichlorophenyl)-6-quinolinyl]propanoate (410 mg, 0.75 mmol) was dissolved in THF (2 ml) and added drop wise over 3 hrs to a stirred aqueous solution of NaOH (2 M, 2.5 ml). After addition was complete the reaction was stirred at RT for 1 hour, before the THF was removed in vacuo. The resulting slurry was diluted with water (6 ml) and acidified to pH-4 using HCl (12 M). The resultant precipitate was collected by filtration, washed with water (15 ml) and dried overnight in vacuo (40° C.) to yield the desired product as a white powder (274 mg, 68%). LCMS M+1 (535, 537), M−1 (534, 536) Retention Time 3.39 min, 1H NMR, 300 Mz, d6-DMSO-13.00 (1H, brs), 9.40 (1H, d), 8.65 (2H, s), 8.42 (1H, d), 7.98 (1H, d), 7.94 (1H, d), 7.78 (1H, dd), 7.65 (2H, d), 7.54 (2H, m), 4.90 (1H, m), 3.45 (1H, brs), 3.20 (1H, dd). Chiral HPLC 97% ee Retention time 6.29 min (Column-CHIRALPAK AD 250*4.6 mm, 10 m; Solvent A 1-Propanol+0.1% TFA, Solvent B Isohexane; Isocratic 20% A: 80% B; Temperature 40° C.; Run Time 15 min; Detection 280 nM).

reactant | Methyl-(2S)-2-[(3,5-dichloroisonicotinoyl)amino]-3-[2-(2,6-dichlorophenyl)-6-quinolinyl]propanoate | 0.75 mmol, 410 mg | COC([C@H](CC=1C=C2C=CC(=NC2=CC1)C1=C(C=CC=C1Cl)Cl)NC(C1=C(C=NC=C1Cl)Cl)=O)=O | C25H17Cl4N3O3
reactant | NaOH | 2 M, 2.5 ml | [OH-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (2S)-2-[(3,5-dichloroisonicotinoyl)amino]-3-[2-(2,6-dichlorophenyl)-6-quinolinyl]propanoic acid | 274 mg, 68% | ClC1=C(C(=O)N[C@H](C(=O)O)CC=2C=C3C=CC(=NC3=CC2)C2=C(C=CC=C2Cl)Cl)C(=CN=C1)Cl | C24H15Cl4N3O3
